US06235771B1
To a solution of methyl 7-(4-chlorophenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.95 g) in 1,2-dimethoxyethane (50 ml) was added 6N hydrochloric acid (30 ml), and the mixture was stirred at 70° C. for 64 hours. The mixture was cooled to room temperature, extracted with ethylacetate, saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. Precipitated crystals were collected by filtration, and the crystals was washed with diisopropylether and hexane to give pale yellow crystals of 7-(4-chlorophenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (804.9 mg).

reactant | methyl 7-(4-chlorophenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.95 g | ClC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C18H15ClO4S
reactant | hydrochloric acid | 6N, 30 ml | Cl | ClH
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | 7-(4-chlorophenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 804.9 mg | ClC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C17H13ClO4S
